US05244890
To a cooled solution of 7β-formamido-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate (4.084 g) in formic acid (8.1 ml) was added dropwise conc. hydrochloric acid (2.5 ml). The mixture was warmed to room temperature and stirred for 2.5 hours. The mixture was added dropwise to ethyl acetate (400 ml) and the supernatant was decanted. The residual oil was dissolved in methanol (50 ml) and the solution was poured into ethyl acetate (600 ml). The resulting precipitates were collected by filtration, washed with ethyl acetate and diisopropyl ether and dried in vacuo. The powder was dissolved in cold water (28 ml) and chromatographed on Diaion HP-20 (28 ml) at 5° C., and the elution was carried out with water. To the eluate (30 ml) was added dropwise cold isopropyl alcohol (19 ml) under cooling and the mixture was stirred at 5° C. for an hour. The resultant crystal was collected by filtration washed with a cooled mixture of isopropyl alcohol and water (10:1) and cold isopropyl alcohol, and dried in vacuo to give 7β-amino-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4carboxylate dihydrochloride (728 mg).

reactant | 7β-formamido-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate | 4.084 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O | C17H20N4O6S
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 8.1 ml | C(=O)O | CH2O2
product | 7β-amino-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4carboxylate dihydrochloride | 728 mg | Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O | InChI=1S/C16H20N4O5S.2ClH/c1-20(2,6-9-3-10(21)11(22)4-18-9)5-8-7-26-15-12(17)14(23)19(15)13(8)16(24)25;;/h3-4,12,15H,5-7,17H2,1-2H3,(H2-,18,21,22,24,25);2*1H/t12-,15-;;/m1../s1
